US06750232B2
2-Amino-5-[1-(4-cyanophenyl)-6-oxo-1,6-dihydro-3-pyridinyl]-6-(2-furyl)nicotinonitrile
2-Amino-6-(2-furyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)nicotinonitrile (20 mg, 0.071 mmol), 4-cyanophenylboronic acid (35 mg, 0.24 mmol), copper acetate monohydrate (3.0 mg, 0.015 mmol), pyridine (0.015 mL, 0.19 mmol) and N,N-dimethylformamide (1.0 mL) were introduced into a reaction vessel and stirred at room temperature for 20 hours. Water was added to the reaction solution, followed by extracting with ethyl acetate. The organic layer was dried, and then dissolved in dimethyl sulfoxide (1.0 mL) and purified by high performance liquid chromatography, to give the title compound as a yellow solid (8.32 mg, 62%).

reactant | 2-Amino-6-(2-furyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)nicotinonitrile | 0.071 mmol, 20 mg | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)C1=CNC(C=C1)=O | C15H10N4O2
reactant | 4-cyanophenylboronic acid | 0.24 mmol, 35 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | pyridine | 0.19 mmol, 0.015 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
catalyst | copper acetate monohydrate | 0.015 mmol, 3.0 mg | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | 2-Amino-5-[1-(4-cyanophenyl)-6-oxo-1,6-dihydro-3-pyridinyl]-6-(2-furyl)nicotinonitrile | 8.32 mg, 62% | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)C1=CN(C(C=C1)=O)C1=CC=C(C=C1)C#N | C22H13N5O2
